US05521184
500 mg (1.37 mmol)of N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-(4-pyridyl)-2-pyrimidine-amine are suspended in 10 ml of methylene chloride and to the suspension are added 430 mg(1.37 mmol) of m-chloroperbenzoic acid and the reaction mixture is stirred for 4 hours at RT. After extraction with water and 2N sodium hydroxide solution, the organic phase is dried and concentrated on a rotovap. Chromatography (methylene chloride:methanol=19:1 to 9:1) and subsequent crystallisation (methylene chloride:diethyl ether) give N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-(N-oxido-4-pyridyl)-2-pyrimidine-amine in the form of lemon yellow crystals; FAB-MS: 381 (M+ +H), m.p. 191°-192°.

reactant | N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-(4-pyridyl)-2-pyrimidine-amine | 1.37 mmol, 500 mg | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC=NC=C1)F | C17H12F4N4O
reactant | m-chloroperbenzoic acid | 1.37 mmol, 430 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-(N-oxido-4-pyridyl)-2-pyrimidine-amine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC=[N+](C=C1)[O-])F | C17H12F4N4O2
